Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
-ERCP with sphincerotomy and stone removal on ___ without 
complication 

 
History of Present Illness:
___ y/o F with advanced dementia (oriented only to self at
baseline), transferred to ___ for painless jaundice and
ultrasound with CBD dilation at OSH, weakness, and consideration
of ERCP. History limited by dementia. Patient oriented only to
self and unable to provide further history. 

 
Past Medical History:
Dementia (Per notes)
Asthma
HTN
GERD
AFIB

 
Social History:
___
Family History:
Unable to obtain 
 
Physical Exam:
Afebrile and vital signs stable (reviewed in bedside record)
General Appearance: pleasant, comfortable, thin, cachetic 
elderly
woman, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, icteric sclera
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no JVD, 
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR ___ SEM RUSB, no rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self only,  Cn II-XII intact. 
___ strength throughout.  No sensory deficits to light touch
appreciated. Speech fluent but not coherent 
Psychiatric: pleasant, inappropriate affect (laughing at ROS
during interview)
GU: no catheter in place
 
Pertinent Results:
___ 06:28AM BLOOD WBC-7.1 RBC-3.13* Hgb-10.1* Hct-30.0* 
MCV-96 MCH-32.3* MCHC-33.7 RDW-14.2 RDWSD-49.6* Plt ___
___ 06:28AM BLOOD Glucose-87 UreaN-17 Creat-0.8 Na-138 
K-4.3 Cl-98 HCO3-25 AnGap-15
___ 06:28AM BLOOD ALT-44* AST-69* AlkPhos-473* TotBili-6.3*
___ 01:55AM BLOOD ALT-63* AST-87* AlkPhos-532* TotBili-7.0* 
DirBili-4.3* IndBili-2.7
___ 01:55AM BLOOD Albumin-3.1* Calcium-9.2 Phos-2.9 Mg-1.8

ERCP Report ___

Impression: •The scout film was normal. 
•The bile duct was successfully cannulated using a clevercut 
sphincterotome preloaded with 0.025in guidewire. 
•Contrast was injected and there was brisk flow through the 
ducts. 
•Contrast extended to the entire biliary tree. 
•Contrast injection revealed two filling defects in the common 
hepatic duct consistent with stones. 
•A biliary sphincterotomy was successfully performed with the 
sphincterotome. 
•There was no post-sphincterotomy bleeding. 
•A biliary sphincteroplasty was successfully performed using a 
CRE balloon up to 12mm. 
•The biliary tree was swept with a 9-12mm balloon starting at 
the bifurcation. 
•Two stones and sludge were successfully removed. 
•The CBD and CHD were swept repeatedly until no further stones 
were seen. 
•The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD. 
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically. 
•I supervised the acquisition and interpretation of the 
fluoroscopic images. 
•The quality of the fluoroscopic images was good. 
•Otherwise normal ercp to third part of the duodenum

CT abdomen/Pelvis ___
IMPRESSION: 
  
  
1. Irregularity of a 2 cm segment of distal common bile duct to 
the level of 
the ampulla, with hyperenhancement of the wall, which could 
represent 
postprocedural changes of sphincterotomy, though 
cholangiocarcinoma could also 
have this appearance.  Mild intra- and extrahepatic biliary 
ductal dilatation. 
Pneumobilia, likely related to sphincterotomy. 
2. No pancreatic mass or main ductal dilation.  No soft tissue 
encasement of 
the vessels. 
3. Large hiatal hernia containing the stomach, transverse colon 
and pancreatic 
body. 
4. Chronic severe compression fractures T11 and L1. 
5. Partially imaged calcifications within the right breast, 
which could be 
correlated mammographically as clinically indicated. 

 
 
Brief Hospital Course:
___ y/o F with advanced dementia (oriented only to self at
baseline), transferred to ___ for painless jaundice and
ultrasound with CBD dilation at OSH, weakness, and consideration
of ERCP.

#Painless Jaundice
#CBD dilation
#Choledocholithiasis- underwent ERCP with sphincterotomy and 
stone removal without complication on ___. Bilirubin 
downtrending on discharge. Offered consideration of CCY with 
surgical team, however, daughter's HCP, ___, did not 
think this would be within the patient's goals of care. ERCP did 
not recommend f/u care as no stents were place. Patient advised 
to f/u with PCP. Despite imaging finding of possible 
cholangiocarcinoma ERCP service felt no further work-up was 
warranted given this finding was not corroborated on the 
cholangiogram. 
-Trend LFTS and ensure resolution of jaundice
-Consider repeat ERCP or CCY if recurrence 

#pAF- Continued home Cardizem. 

#Advanced Dementia- Patient only oriented to self and cannot 
make her own medical decisions. 
-HCP ___ (daughter) ___, Other daughter ___ not
HCP (___)
-speech and swallow evaluation 
-Nectar thick liquids and pureed solids for diet
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time 
2. Ondansetron 4 mg PO Q6H PRN nausea 
3. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 
4. Alendronate Sodium 70 mg PO QFRI bone health 
5. Citalopram 20 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Cardizem LA (dilTIAZem HCl) 120 mg oral q24h 

 
Discharge Medications:
1.  Acetaminophen 325 mg PO Q6H:PRN Pain - Mild  
2.  Alendronate Sodium 70 mg PO QFRI bone health  
3.  Cardizem LA (dilTIAZem HCl) 120 mg oral q24h  
4.  Citalopram 20 mg PO DAILY  
5.  Docusate Sodium 100 mg PO BID  
6.  Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time  
7.  Omeprazole 20 mg PO DAILY  
8.  Ondansetron 4 mg PO Q6H PRN nausea  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Jaundice
-Choledocholithiasis
-pAF
-Hyperbilirubinemia
-s/p ERCP 

 
Discharge Condition:
Fair
Alert and oriented only to self
Not ambulatory without assistance 

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with Jaundice. We found gall 
stones in your bile ducts via endoscopy (ERCP) and removed them. 
The blockage of the bile ducts likely explained your jaundice 
(hyperbilirubinemia). We discussed the possibility of removing 
your gallbladder surgically (cholecystectomy) but in discussion 
with ___, your daughter, surgery was not within your goals of 
care. 
 
Followup Instructions:
___